US07498337B2
4-chloro-5-(2-fluorophenyl)-1-(pyridin-3-ylsulfonyl)-1H-pyrrole-3-carbaldehyde
A suspension of sodium hydride (60% in oil, 216 mg) in tetrahydrofuran (5 mL) was cooled to 0° C., a solution of 4-chloro-5-(2-fluorophenyl)-1H-pyrrole-3-carbaldehyde (335 mg) in tetrahydrofuran (5 mL), 15-crown-5 (991 mg), and pyridine-3-sulfonyl chloride hydrochloride (482 mg) were added at 10° C. or below. After stirring for 15 min, water was added, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate=4:1→2:1) to give the title compound as a yellow powder (yield 429 mg, 78%).

reactant | sodium hydride | 216 mg | [H-].[Na+]
reactant | 4-chloro-5-(2-fluorophenyl)-1H-pyrrole-3-carbaldehyde | 335 mg | ClC=1C(=CNC1C1=C(C=CC=C1)F)C=O | C11H7ClFNO
reactant | 15-crown-5 | 991 mg | C1COCCOCCOCCOCCO1 | C10H20O5
reactant | pyridine-3-sulfonyl chloride hydrochloride | 482 mg | Cl.N1=CC(=CC=C1)S(=O)(=O)Cl
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 4-chloro-5-(2-fluorophenyl)-1-(pyridin-3-ylsulfonyl)-1H-pyrrole-3-carbaldehyde | yield 429 mg, 78% | ClC=1C(=CN(C1C1=C(C=CC=C1)F)S(=O)(=O)C=1C=NC=CC1)C=O | C16H10ClFN2O3S
